data/mechanisms/records/IMS8-EQ8.53a.json
{"mechanism_id": "IMS8-EQ8.53a", "species": [{"species_id": "cyclic_oe_molecular_ion", "mapped_smiles": "[OH+:1][CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[OH+:1]=[CH:2][CH2:7][CH2:6][CH2:5][CH2:4][CH2:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_oxonium_c2h4o", "mapped_smiles": "[CH2:7][CH:2]=[OH+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cycloalkane_neutral", "mapped_smiles": "[CH2:6]1[CH2:5][CH2:4][CH2:3]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclic_oe_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["distonic_oxonium_c2h4o", "cycloalkane_neutral"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_homolytic_ring_closure", "from_state": "state_ring_opened", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [3, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.53", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "GENERIC SCHEME, printed under the heading 'OE+.'. Shared first step: the left-hand structure is a carbocyclic ring (drawn as a hexagon) carrying an EXOCYCLIC heteroatom substituent Y that has been n-ionized ('+.' printed on Y, single bond to the ring). The same structure feeds BOTH the 8.53 row (upper alpha arrow) and the 8.54 row (lower alpha arrow), so this step is transcribed identically in IMS8-EQ8.53a, IMS8-EQ8.53b and IMS8-EQ8.54. Radical-site alpha-cleavage opens the ring: the odd electron on Y pairs into the Y=C bond and the ring C-C bond beta to Y breaks, giving the ring-opened distonic ion Y+=CH-CH2-...-CH2. (oxocarbenium head, primary radical tail). Book draws 2 arc(s) on this structure; moves <1,2> are drawn (fishhook from the '+.' on Y into the Y-C bond, fishhook from the ring C-C bond into that same forming pi bond) and move <3> is an implicit homolysis hook required for electron balance (not drawn on the page, though the product's radical dot is printed). INSTANTIATION (convention B/F): Y = OH and a six-membered carbocycle, i.e. the cyclohexanol molecular ion C6H12O+. m/z 100.0883, with the charge and the odd electron placed on the oxygen in the mapped SMILES exactly where the book prints '+.'; the two ring bonds flanking C2 are equivalent, so cleaving C2-C3 rather than C2-C7 is an arbitrary but consistent choice. The book writes only 'Y' (no hydrogen); the OH hydrogen is the curator's minimal completion needed for a parseable species."}, {"evidence_id": "ev_step_ring_closure", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_homolytic_ring_closure", "support_type": "textbook_proposed", "locator": {"page": 179, "equation": "8.53", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.6, "curator_note": "Upper (direct) branch of Eq 8.53, labelled 'alpha'. The ring-opened distonic ion is drawn as a 'bucket' (open chain of unspecified length: Y+=CH- at the upper left, radical dot at the upper right); the products are the small ion .CH2-CH=Y+ and a CLOSED ring (the half-moon D-shape = a carbocycle, its flat top being the newly formed C-C bond). So the radical tail displaces the chain: the odd electron pairs with one electron of the C-C bond that is two atoms from the Y+=CH head, the new C-C bond closes the neutral carbocycle, and the second electron of the broken bond stays behind as the radical of the product ion. Formally this is a radical homolytic substitution (SHi) rather than a pi-bond-forming alpha-cleavage, but the book labels the arrow 'alpha', so step_class follows the book. Book draws 2 arc(s); moves <1,2> are drawn (fishhook from the terminal radical dot curving into the ring cavity, fishhook from the C-C bond next to the Y+=CH-CH2 head curving into the same cavity - both heads converge on the bond being formed, maps 3-6) and move <3> is an implicit homolysis hook required for electron balance (not drawn on the page; the product's radical dot is printed). For the cyclohexanol instantiation the neutral is cyclobutane (C4H8) and the ion is the distonic/oxonium C2H4O+. at m/z 44.0257. RESONANCE (convention C): that ion is written here in the localised form .CH2-CH=OH+ that the book draws; its partner CH2=CH-OH+. is not encoded."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c2h4o_distonic", "species_id": "distonic_oxonium_c2h4o", "step_id": "step_alpha_homolytic_ring_closure", "observed_mz": 44.0257, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
